US09108957B2
To a suspension of optically active 7-(4-bromo-phenyl)-[1,4]oxazepane hydrochloride (0.10 g, 0.34 mmol) and 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one (0.07 g, 0.30 mmol) in tetrahydrofuran (2 mL) was added triethylamine (0.08 mL), 0.60 mmol) at room temperature. The resulting mixture was stirred over night and poured into water. Extractive workup with chloroform was performed and the organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by recrystallization from ethyl acetate and diisopropyl ether to yield (+)-2-[7-(4-bromophenyl)-[1,4]-oxazepane-4-yl]-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one (A096) (0.10 g, 0.23 mmol, 75%) as a white solid.

reactant | 7-(4-bromo-phenyl)-[1,4]oxazepane hydrochloride | 0.34 mmol, 0.10 g | Cl.BrC1=CC=C(C=C1)C1CCNCCO1
reactant | 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one | 0.30 mmol, 0.07 g | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-2-[7-(4-bromophenyl)-[1,4]-oxazepane-4-yl]-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one | 0.23 mmol, 0.10 g, 75% | BrC1=CC=C(C=C1)C1CCN(CCO1)C1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C20H20BrN5O2
